US09260425B2
A solution of 0.5238 g (2.4 mmol) of di-tert-butyldicarbonate in 5 ml of THF and 0.6 ml of 4.0 M of sodium hydroxide in water were added dropwise to a solution of 230.3 mg (2.0 mmol) of (1S,3S)-3-aminocyclohexanol in 6 ml of tetrahydrofuran and 4 ml of water at 0° C. The mixture was stirred for 18 hours, diluted with water and extracted with ethyl acetate. The organic extracts were washed with water, brine, dried over MgSO4 and concentrated to afford 434 mg (100%) of tert-Butyl (1S,3S)-3-hydroxycyclohexylcarbamate as a crystalline residue.

reactant | di-tert-butyldicarbonate | 2.4 mmol, 0.5238 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (1S,3S)-3-aminocyclohexanol | 2.0 mmol, 230.3 mg | N[C@@H]1C[C@H](CCC1)O | C6H13NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 4.0 M, 0.6 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | tert-Butyl (1S,3S)-3-hydroxycyclohexylcarbamate | 434 mg, 100% | O[C@@H]1C[C@H](CCC1)NC(OC(C)(C)C)=O | C11H21NO3
